US05994343
Step 3: sodium 1-(methoxycarbonylmethyl)-5-amino-4-naphthalene sulfonate
1-(methoxycarbonylmethyl)-5-nitro-4-naphthalene sulfonic acid (2 g, 6.15 mmol) was dissolved in water (20 mL), containing 0.5 mL concentrated sulfuric acid, and was added dropwise over 5 minutes to a refluxing suspension of iron (4 g, 71.6 mmol) in water (100 mL). After refluxing for one hour, the dark mixture was cooled to room temperature, made basic with sodium carbonate, and concentrated to approximately 30 mL. The residual mixture was placed on a CG-161 amberchrom resin column (2.5×30 cm). The column was washed with water (200 mL), 10% MeCN/H2O(200 mL), and 25% MeCN/H2O (400 mL), collecting 25 mL fractions. Fractions 21-28 were combined and evaporated to give the title compound as a dark solid (0.675 g).

reactant | 1-(methoxycarbonylmethyl)-5-nitro-4-naphthalene sulfonic acid | 6.15 mmol, 2 g | COC(=O)CC1=CC=C(C2=C(C=CC=C12)[N+](=O)[O-])S(=O)(=O)O | C13H11NO7S
reactant | sulfuric acid | 0.5 mL | S(O)(O)(=O)=O | H2O4S
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | water | 20 mL | O | H2O
solvent | water | 100 mL | O | H2O
catalyst | iron | 71.6 mmol, 4 g | [Fe] | Fe
product | sodium 1-(methoxycarbonylmethyl)-5-amino-4-naphthalene sulfonate | 0.675 g | COC(=O)CC1=CC=C(C2=C(C=CC=C12)N)S(=O)(=O)[O-].[Na+] | InChI=1S/C13H13NO5S.Na/c1-19-12(15)7-8-5-6-11(20(16,17)18)13-9(8)3-2-4-10(13)14;/h2-6H,7,14H2,1H3,(H,16,17,18);/q;+1/p-1
